Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
confusion, headache
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ year-old woman with a
PMHx of HTN and possible vWD who presents with impaired memory
since this morning. 

The history is provided by the patient with significant
assistance from her husband ___ and ___ daughter ___. The
patient is able to recall going on the ___ boats with her
grandchildren on ___ and finding herself in the ED today
(___). She also vaguely recalls which grandchildren
she was with yesterday but not what they did. She does not 
recall
this morning's events. She is aware that there are gaps in her
memory. 

According to ___, she awoke at 5:30am and had coffee. She
watched TV and seemed tired and less talkative than usual, but
her speech and behavior were appropriate. The smoke alarms went
off in the building at 6:30am; they are not sure why, but it may
because there is construction going on in another ___ unit. 
Her
husband left to go to his daughter's house to go drop the
grandkids off at school. He then called his wife on her cell
phone and told her to text the neighbors that he was calling the
smoke alarm maintenance person. When he got home, he was working
with the maintenance person in the hallway. She walked out and
said, "What are you doing?" He explained, and she went back
inside. Around 10am, he asked her whether she texted like he
asked, and she couldn't recall the phone conversation above. She
also couldn't recall that she had a cell phone (received for
first time 3 weeks ago). She then couldn't recall whether she 
had
made coffee when it was sitting by her computer.  Her husband
called their PCP ___ and ___ daughter, and they
urged him to call ___. She was able to walk downstairs without
difficulty. She was speaking in full sentences. The ED said the
family mentioned a new facial droop, but the family denies this. 


In the ED, she kept asking questions such as, "What day is 
toay?"
"Where are we?" "How did I get here?" She was worried about 
going
to work, and she did not recall that she is off for the summer
(formerly worked summers but now does not). 

Of note, two to three weeks ago, she began to experiences
headaches and fatigue. The headaches have been intermittent and
likely gradual in onset, although the family is not sure. She
currently has a midline occipital headache that is ___ in
severity and achy in character. Her headache was not more severe
today or different in character than usual. No photophobia,
phonophobia, nausea/vomiting. No clear positional features, and
it didn't wake her from sleep. She has been taking Tylenol and
reduced her caffeine intake. No neck pain or stiffness. No 
recent
traumas or neck manipulations, including chiropractor visits.
Regarding heavy lifting, she does lift her grandchildren,
including a ___ and ___. With regard to the
fatigue, she has been able to stay awake, but she has less 
energy
which is very atypical for her. She denies recent illnesses. She
takes weekly trips to the woods including yesterday. No tick
bites.

Also, of note, she recalls remote events. For example, she
recalls that in the early ___, she was in a building that
caught on fire, and 9 people were killed. Her cat and kittens
were also killed, and she became briefly homeless. As a result,
smoke alarms like the one today bring back traumatic memories.

 
Past Medical History:
HTN (BP no higher than 150s/90s, per daughter)
?___ was told she had this as a child after prolonged
bleeding and epistaxis as child and was told never to take
aspirin. She was then told she does not have the disease. She is
not sure if she was tested. She thinks the evaluation was done
remotely at ___. Daughter was tested and did not have it.
Obesity
Colonic Polyps
Pneumonia
Back pain  
Actinic keratosis
Left Bell's palsy ___, evaluated by Dr. ___
?Idiopathic brachial neuritis ___, scapular winging)
 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   ___                                               

Father   ___                                               

+ history melanoma in mother and sister. No history of strokes 
or
other neurologic illness. 
 
Physical Exam:
ADMISSION EXAM:

Vitals: T: 98.7F P: 84 R: 17 BP: 191/94-->192/91-->156/81 SaO2:
99%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity.
Pulmonary: no work of breathing
Cardiac: warm and well-perfused
Abdomen: non-distended
Extremities: No C/C/E bilaterally.
Skin: no rashes or lesions noted.

Neurologic:
Please see top of note for NIHSS.

-Mental Status: Alert, oriented to name, ___, month, and year
(slow to recall year). Guessed that it was ___
(actually ___. Unable to recall presenting
complains. Remote autobiographical memory intact as per HPI. 
Also
recalled taking trip to ___ 2 weeks ago. 
Recalls that she has 8 grandkids. Attentive, able to name ___
backward quickly but skipped ___. Language is fluent with 
intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
___ with categorical prompts, ___ with MC prompts). When
3 objects were hidden around the room, she recalled ___ objects
and ___ locations. When asked to remember three drawn shapes, 
she
was able to copy them and was able to remember the outlines of
___ of the shapes but not the third and not the lines within the
shapes. Able to recognize image of famous person. Fund of
knowledge intact. There was no evidence of neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation using red pin. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No adventitious movements, such as tremor, noted.
No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5

-Sensory: Decreased sensation to pinprick in LLE (85% of 
normal).
Otherwise no deficits to PP, LT, or proprioception. No 
extinction
to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was mute bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Romberg absent.

DISCHARGE EXAM:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity.
Pulmonary: no work of breathing
Cardiac: warm and well-perfused
Abdomen: non-distended
Extremities: No C/C/E bilaterally.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented to name, ___, date, month, and
year (slow to recall year).  Able to perform serial 7's. No 
apraxia. 
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty.  Speech was not dysarthric. Able to 
follow both midline and
appendicular commands. 
Pt was able to register 3 objects and recall ___ from yesterday.
Fund of knowledge intact. There was no evidence of neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation using red pin. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No adventitious movements, such as tremor, noted.
No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5

-Sensory: Decreased sensation to pinprick in LLE (85% of 
normal).
Otherwise no deficits to PP, LT, or proprioception. No 
extinction
to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was mute bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Romberg absent.
 
Pertinent Results:
LABORATORY EVALUATION:

___ 11:20AM BLOOD WBC-5.0 RBC-4.67 Hgb-14.6 Hct-42.4 MCV-91 
MCH-31.3 MCHC-34.4 RDW-11.9 RDWSD-39.2 Plt ___
___ 07:36AM BLOOD Neuts-57.6 ___ Monos-10.7 Eos-1.7 
Baso-0.7 Im ___ AbsNeut-2.37 AbsLymp-1.20 AbsMono-0.44 
AbsEos-0.07 AbsBaso-0.03
___ 11:20AM BLOOD ___ PTT-27.1 ___
___ 11:20AM BLOOD Glucose-110* Lactate-1.6 Na-142 K-4.1 
Cl-102 calHCO3-24
___ 11:20AM BLOOD UreaN-14 Creat-0.8
___ 11:20AM BLOOD Albumin-4.6 Calcium-9.9 Phos-4.2 Mg-2.1
___ 11:20AM BLOOD ALT-31 AST-32 AlkPhos-60 TotBili-0.4
___ 07:36AM BLOOD GGT-13
___ 11:20AM BLOOD Lipase-38
___ 11:20AM BLOOD cTropnT-<0.01
___ 07:36AM BLOOD %HbA1c-5.2 eAG-103
___ 07:36AM BLOOD Triglyc-61 HDL-88 CHOL/HD-2.1 LDLcalc-89
___ 07:36AM BLOOD TSH-3.2
___ 07:36AM BLOOD CRP-1.9
___ 11:20AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:13PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 01:13PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

IMAGING AND OTHER EVALUATION:

CTA head/neck ___:
1. Dental amalgam streak artifact limits study.
2. Dissection flap within the distal V2 segment of the right 
vertebral artery,
spanning approximately 8 mm without any identified branching 
artery.
3. Otherwise patent bilateral cervical carotid and vertebral 
arteries.
4. Patent circle of ___ without definite evidence of 
stenosis, occlusion,
or aneurysm greater than 3 mm.
5. 8 mm right thyroid nodule.  Please see recommendation below.
6.  Paranasal sinus disease , as described.
 
RECOMMENDATION(S):  Thyroid nodule.  No follow up recommended.
Absent suspicious imaging features, unless there is additional 
clinical
concern, ___ of Radiology guidelines do not 
recommend further
evaluation for incidental thyroid nodules less than 1.0 cm in 
patients under
age ___ or less than 1.5 cm in patients age ___ or ___.

MRI head ___:
1.  Study is mildly degraded by motion.
2. No evidence for acute intracranial infarction or hemorrhage.
3. Known focal dissection flap within the distal right V2 
segment, correlating
with findings on recent CTA.  The proximal and distal portions 
of the right
vertebral artery remain patent.
4. Otherwise patent carotid and vertebral cervical and 
intracranial arteries
as described.
5. Paranasal sinus disease and trace nonspecific bilateral 
mastoid fluid, as
described.

Extended routine EEG ___:
Bursts of left temporal, bitemporal, and generalized slowing. No 
epileptiform features.
 
Brief Hospital Course:
___ year old woman with history of diet-controlled hypertension 
who presented with an episode of inability to form new memories 
or recall memories for ___ hours, with complete resolution.

MRI was negative for acute stroke, and extended routine showed 
occasional left and bitemporal slowing, but no epileptiform 
discharges. Her event was diagnosed as transient global amnesia.

CTA did show a small right extracranial vertebral artery 
dissection. However, there was no evidence of clot or 
flow-limiting stenosis. Timing and relevance to her acute 
presenting complaint was unclear. She was recommended to take 
aspirin 81mg daily for 1 month, then follow up with PCP to 
discuss ___ profile of maintaining aspirin for primary 
cardiovascular prevention.

Her blood pressures while admitted were high. She should follow 
up with her PCP to address diet/exercise modification vs. 
starting on medications.
 
Medications on Admission:
N/A
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
Take for 30 days. Afterwards, please discuss with PCP whether to 
continue for cardiac protection.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Global Amnesia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear  Ms. ___,

You were hospitalized due to a transient episode of memory loss 
and inability to form new memories. This is from a condition 
called Transient Global Amnesia (or TGA).

Sometimes TGA can be due to transient reduced blood flow, such 
as in a stroke or TIA. Fortunately, your brain MRI was negative 
for any signs of a stroke. Similarly, we performed an EEG, which 
was negative for any signs of seizure activity. The risk of you 
having another event is relatively higher than of the general 
population, however risk of recurrence is still low.

Your blood vessel imaging with CTA did show a small tear in the 
wall of one of your blood vessels. However, there is no blood 
clot or any obstruction of blood flow. Most likely this is 
incidental and chronic. However, to be safe, we recommend that 
you take aspirin 81mg daily for the next month, to reduce your 
chance of a blood clot forming.

Your blood pressures were mildly elevated on this admission, 
however, we do not recommend starting you on a medication until 
you see your PCP. We suggest keeping tracking of your blood 
pressures which may be helpful for your PCP in deciding whether 
or not to start you on medication.

It was a pleasure taking care of you. We wish you the best.
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___